US07989460B2
A mixture of 6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]-7-[(piperidin-4-yl)methoxy]quinazoline (0.2 g), chloroacetone (0.046 ml), potassium carbonate (0.1 g) and DMF (6 ml) was stirred and heated to 70° C. for 1 hour. The mixture was cooled to ambient temperature, the precipitate was removed by filtration, the solvent was removed by evaporation under vacuum and the residue was purified by column chromatography on silica using increasingly polar solvent mixtures, starting with dichloromethane and ending dichloromethane/methanol (93/7). Evaporation of the solvents gave a foam which was triturated under ether/pentane (70/30) to give a solid which was collected by filtration and dried under vacuum to give 7-{[1-(acetylmethyl)piperidin-4-yl]methoxy}-6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]quinazoline (0.074 g).

reactant | 6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]-7-[(piperidin-4-yl)methoxy]quinazoline | 0.2 g | COC=1C=C2C(=NC=NC2=CC1OCC1CCNCC1)OC=1C=C2C(=CNC2=CC1)C | C24H26N4O3
reactant | chloroacetone | 0.046 ml | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 7-{[1-(acetylmethyl)piperidin-4-yl]methoxy}-6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]quinazoline | 0.074 g | C(C)(=O)CN1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C(=CNC2=CC1)C)OC | C27H30N4O4
